US08710046B2
Methyl 5-chloro-1H-indazole-7-carboxylate (2.65 g, 12.6 mmol; 1 eq) from Step A above was stirred in DMSO (25 mL) at room temperature while bromoacetaldehyde dimethyl acetal (3 mL, 25.2 mmol) pre-mixed with potassium iodide (209 mg, 1.3 mmol) was added. 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU; 2 mL, 12.6 mmol) was then added dropwise. The reaction mixture was stirred at 80° C. (external temperature) overnight. The reaction mixture was neutralized with sat. NH4Cl then partitioned between H2O and ethyl acetate. The ethyl acetate layers were combined, dried (Na2SO4), filtered, concentrated and purified by column chromatography (silica gel, 1:1 ethyl acetate/hexanes) to afford methyl 5-chloro-1-(2,2-dimethoxyethyl)-1H-indazole-7-carboxylate as a light yellow oil (404 mg, 11%, regioisomer confirmed by NOE): 1H NMR (300 MHz, CDCl3) δ 8.04 (s, 1H), 8.84 (s, 2H), 4.93 (d, J=5.1 Hz, 2H), 4.50 (t, J=5.1 Hz, 1H), 3.99 (s, 3H), 3.27 (s, 6H). [1.29 g starting material recovered; 846 mg, 22% undesired regioisomer methyl 5-chloro-2-(dimethoxymethyl)-2H-indazole-7-carboxylate collected as side product, dark yellow solid]

reactant | Methyl 5-chloro-1H-indazole-7-carboxylate | 12.6 mmol, 2.65 g, 1 eq | ClC=1C=C2C=NNC2=C(C1)C(=O)OC | C9H7ClN2O2
reactant | bromoacetaldehyde dimethyl acetal | 25.2 mmol, 3 mL | COC(CBr)OC | C4H9BrO2
reactant | potassium iodide | 1.3 mmol, 209 mg | [I-].[K+]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 12.6 mmol, 2 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | methyl 5-chloro-1-(2,2-dimethoxyethyl)-1H-indazole-7-carboxylate | ClC=1C=C2C=NN(C2=C(C1)C(=O)OC)CC(OC)OC | C13H15ClN2O4
